US04188395
2-Phthalimidomethyl-6-methyl-4-(4'-fluorophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester
12.4 g of 4-fluorobenzaldehyde, 31 g of phthalimidoacetic acid ethyl ester and 13 g of β-aminocrotonic acid ethyl ester in 100 ccs of ethanol are heated to the boil under reflux for 2×24 hours, the mixture is allowed to cool, whilst stirring, and, after filtering, yellow crystals of melting point 144°-145° C. (ethanol) are obtained, yield: 80%.

reactant | 4-fluorobenzaldehyde | 12.4 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | phthalimidoacetic acid ethyl ester | 31 g | C(C)OC(CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C12H11NO4
reactant | β-aminocrotonic acid ethyl ester | 13 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
solvent | ethanol | C(C)O | C2H6O
product | 2-Phthalimidomethyl-6-methyl-4-(4'-fluorophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | yield: 80% | C(C)OC(=O)C1=C(NC(=C(C1C1=CC=C(C=C1)F)C(=O)OCC)C)CN1C(C=2C(C1=O)=CC=CC2)=O | C27H25FN2O6
